US07282501B2
Step A: 3-(2-(Isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-nitro-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester
4-Methyl-3-nitro-benzenesulfonic acid 2-[5-methyl-2-(4-nitro-phenyl)-oxazol-4-yl]-ethyl ester (Preparation 7) and 3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester were coupled by Standard procedure A to give the title compound.

reactant | 4-Methyl-3-nitro-benzenesulfonic acid 2-[5-methyl-2-(4-nitro-phenyl)-oxazol-4-yl]-ethyl ester | CC1=C(N=C(O1)C1=CC=C(C=C1)[N+](=O)[O-])CCOS(=O)(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C19H17N3O8S
reactant | 3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(=O)OC(C)C)=O | C18H27NO5
product | 3-(2-(Isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-nitro-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)[N+](=O)[O-])CNC(=O)OC(C)C)=O | C30H37N3O8
